US04791111
A mixture of 21.3 parts of 3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5,5-dimethyl-2,4-imidazolidinedione, 7.5 parts of 3-chloro-2-butanone, 6.0 parts of potassium carbonate and 180 parts of N,N-dimethylformamide was stirred overnight at 100° C. After cooling, the reaction mixture was diluted with 700 parts of water. The crystallized product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98.5:1.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. After trituration of the residue in methanol, the product was filtered off and crystallized from 4-methyl-2-pentanone, yielding 7.77 parts (30.9%) of 3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5,5-dimethyl-1-(1-methyl-2-oxopropyl)-2,4-imidazolidinedione; mp. 225.9° C. (intermediate 20).

reactant | 3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5,5-dimethyl-2,4-imidazolidinedione | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NC(C1=O)(C)C)=O | C22H26N4O3
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5,5-dimethyl-1-(1-methyl-2-oxopropyl)-2,4-imidazolidinedione | 30.9% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(C(C1=O)(C)C)C(C(C)=O)C)=O | C26H32N4O4
